US08871782B2
mCPBA (2.0 g of 60%, 6.97 mmol) was added to a solution of 7-benzyloxy-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinoline (2.8 g, 6.97 mmol) in chloroform (50 mL). After 30 minutes an additional equivalent of mCPBA was added and the reaction mixture was stirred for an additional hour. Ammonium hydroxide (20 mL) was added and the reaction mixture was stirred for 10 minutes. p-Toluenesulfonyl chloride (1.33 g, 6.97 mmol) was added in a single portion and the reaction mixture was stirred for 16 hours. The layers were separated and the aqueous layer was extracted with dichloromethane (2×100 mL). The organics were combined, washed with water and brine, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was purified by chromatography on a HORIZON HPFC system (40+M cartridge eluting with a gradient of 2 to 25% CMA in chloroform). The residue was combined with acetonitrile and allowed to stand overnight. A solid was isolated by filtration and rinsed with acetonitrile to provide 1.96 g of 7-benzyloxy-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a tan solid.

reactant | mCPBA | 6.97 mmol, 2.0 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 7-benzyloxy-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinoline | 6.97 mmol, 2.8 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3CCOCC3)CC | C25H27N3O2
reactant | Ammonium hydroxide | 20 mL | [OH-].[NH4+]
reactant | p-Toluenesulfonyl chloride | 6.97 mmol, 1.33 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-benzyloxy-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.96 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCOCC3)CC | C25H28N4O2
